US05280026
2-(4-Fluoro-2-methylphenylamino)-4-(N-methylphenylamino)thieno[3,2-d]pyrimidine hydrochloride
2-(4-Fluoro-2-methylphenylamino)-4-chlorothieno-[3,2-d]pyrimidine (1.5 g, 0.0051 mol) and N-methylaniline were heated in an oil bath at 150° for 1 hour. Addition of diethyl ether gave a solid which was collected by filtration and dried, (1.85 g). Recrystallization from ethanol gave the title compound, (0.75 g), m.p. 242°-244°.

reactant | 2-(4-Fluoro-2-methylphenylamino)-4-chlorothieno-[3,2-d]pyrimidine | 0.0051 mol, 1.5 g | FC1=CC(=C(C=C1)NC=1N=C(C2=C(N1)C=CS2)Cl)C | C13H9ClFN3S
reactant | N-methylaniline | CNC1=CC=CC=C1 | C7H9N
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-(4-Fluoro-2-methylphenylamino)-4-(N-methylphenylamino)thieno[3,2-d]pyrimidine hydrochloride | 0.75 g | Cl.FC1=CC(=C(C=C1)NC=1N=C(C2=C(N1)C=CS2)N(C)C2=CC=CC=C2)C | InChI=1S/C20H17FN4S.ClH/c1-13-12-14(21)8-9-16(13)22-20-23-17-10-11-26-18(17)19(24-20)25(2)15-6-4-3-5-7-15;/h3-12H,1-2H3,(H,22,23,24);1H
